US04472316
The procedure in Example 17(1) was followed, except that 6.92 g 3-[4-(4-bromophenoxy)benzoyl]acrylic acid were used in place of 3-[4-(4-methylphenoxy)benzoyl]acrylic acid, to give 6.00 g of ethyl 3-[4-(4-bromophenoxy)benzoyl]acrylate in the form of an oil.

reactant | 3-[4-(4-bromophenoxy)benzoyl]acrylic acid | 6.92 g | BrC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=C1 | C16H11BrO4
reactant | 3-[4-(4-methylphenoxy)benzoyl]acrylic acid | CC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=C1 | C17H14O4
product | ethyl 3-[4-(4-bromophenoxy)benzoyl]acrylate | 6.00 g | BrC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)OCC)C=C2)C=C1 | C18H15BrO4
